US07709469B2
2-ethylbenzylamine
Lithium aluminum hydride (7.4 g 196 mmol) in tetrahydrofuran (130 mL) was slowly treated with 2-ethylbenzonitrile (4.99 g 38 mmol) in tetrahydrofuran (40 mL) at 0° C. under nitrogen. The mixture was stirred for 30 minutes at 0° C., 2 hours at room temperature, recooled to 0° C., and then slowly treated in succession with water (7.4 mL), 15% sodium hydroxide (7.4 mL) and water (22 mL). Additional tetrahydrofuran (50 mL) was added to facilitate stirring. The reaction mixture was filtered through celite, the filter cake was washed with tetrahydrofuran (150 mL), the filtrate was concentrated under reduced pressure, and the residue was partitioned between methylene chloride/saturated sodium chloride. The organic phase was dried (potassium carbonate), filtered, and the filtrate was concentrated under reduced pressure to provide the title compound. 1H NMR (CDCl3) δ 1.24 (t, 3H), 2.69 (q, 2H), 3.89 (s, 2H), 7.20 (m, 3H), 7.32 (m, 1H).

reactant | Lithium aluminum hydride | 196 mmol, 7.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-ethylbenzonitrile | 38 mmol, 4.99 g | C(C)C1=C(C#N)C=CC=C1 | C9H9N
reactant | water | 7.4 mL | O | H2O
reactant | sodium hydroxide | 7.4 mL | [OH-].[Na+]
reactant | water | 22 mL | O | H2O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-ethylbenzylamine | C(C)C1=C(CN)C=CC=C1 | C9H13N
